US08383637B2
3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-benzoyl chloride
A mixture of 3-(2-amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-benzoic acid (0.0009 mol) in SOCl2 (2 mL) and DCM (10 mL) was stirred for 2 hours at room temperature and then the solvent was evaporated. The obtained residue was stirred in toluene and the solvent was evaporated again to yield the title compound as a residue.

reactant | 3-(2-amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-benzoic acid | 0.0009 mol | NC1=NC2=CC=C(C=C2CN1CCC)OC=1C=C(C(=O)O)C=CC1 | C18H19N3O3
reactant | SOCl2 | 2 mL | O=S(Cl)Cl | Cl2OS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-benzoyl chloride | NC1=NC2=CC=C(C=C2CN1CCC)OC=1C=C(C(=O)Cl)C=CC1 | C18H18ClN3O2
